2140-06-11 07:38:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   -Initally, she was persistently hypotensive in the SBP range of 80-90,
   required a totoal of 6L of fluid with UOP remaining in the 30cc/hr
   range.  A bladder scan showed no urine, bladder pressure was 12, and
   mixed venous sats were 79- overall consistent with sepsis and not
   abdominal compartment syndrome.  After the sixth liter, her SBP and
   MAPs began to hold steady in the 100-110 range, and her UOP increased
   to 70-100cc/hr late in the evening. MAP's were >65 throughout.
   -AC was successfully weaned to CPAP with resulting ABG of 7.37/139/41
   -No new GYN recs
   -Sent urine sediment and lytes as we are concerned for ATN
   Allergies:
   Penicillins
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ciprofloxacin
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2140-6-10**] 07:56 PM
   Vancomycin - [**2140-6-10**] 08:00 PM
   Metronidazole - [**2140-6-10**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2140-6-10**] 01:15 PM
   Fentanyl - [**2140-6-10**] 03:30 PM
   Famotidine (Pepcid) - [**2140-6-10**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2140-6-11**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: sore throat
   Respiratory: Cough
   Flowsheet Data as of  [**2140-6-11**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 120 (107 - 152) bpm
   BP: 111/64(81) {74/52(60) - 135/86(104)} mmHg
   RR: 8 (8 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 10 (3 - 18)mmHg
   Bladder pressure: 17 (12 - 17) mmHg
   Total In:
                                                                 11,044 mL
                                                                    250 mL
   PO:
   TF:
   IVF:
                                                                 11,044 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,479 mL
                                                                    630 mL
   Urine:
                                                                  1,209 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                     65 mL
   Balance:
                                                                  9,565 mL
                                                                   -380 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 593 (593 - 669) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 6 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.37/41/139/23/-1
   Ve: 8.9 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, dsg in place over abdomen
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): AOx3, Movement: Purposeful, Sedated, Tone:
   Normal
   Labs / Radiology
   309 K/uL
   8.2 g/dL
   101 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   108 mEq/L
   136 mEq/L
   23.2 %
   24.9 K/uL
        [image002.jpg]
                             [**2140-6-10**]  02:47 AM
                             [**2140-6-10**]  02:59 AM
                             [**2140-6-10**]  09:32 AM
                             [**2140-6-10**]  10:58 AM
                             [**2140-6-11**]  02:26 AM
                             [**2140-6-11**]  04:00 AM
   WBC
   41.4
   24.9
   Hct
   31.5
   23.2
   Plt
   411
   309
   Cr
   0.5
   0.5
   TCO2
   21
   17
   17
   25
   Glucose
   155
   101
   Other labs: PT / PTT / INR:13.4/28.7/1.2, ALT / AST:[**12-22**], Alk Phos / T
   Bili:48/1.1, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, LDH:135 IU/L, Ca++:7.5
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Microbiology: NGTD on all cx
   Assessment and Plan
   Impression and Plan:  57 yof with ovarian cancer, s/p recent surgery
   presented with abdominal pain, elevated WBC now s/p ex-lap with repair
   of enterotomy, LOA and removal of peritoneal port.
   .
   # Septic shock - Initial presentation with fever and hypotension most
   likely from intrabdominal infection from small bowel enterotomy.  She
   is now s/p repair with GYN service.
   - Keep NPO for now
   - continue broad spectrum abx with cefepime and flagyl.
   - cx NGTD
   - Central line with goal CVP of 14 given PEEP from vent.
   .
   # Respiratory failure
   Patient did well o/n on PS, RSBI 20 and patient anxious to get ETT tube
   out. Check ABG and plan on extubated this morning given stable
   hemodynamics
   .
   #Acidosis: resolved
   .
   # Anemia - hct of 23 today here was 34 on admisison.  Likely secondary
   to some blood loss intraop and dilutional (Received 11+ L of IVF).
   - Cont to monitor
   - stool guiacs
   - follow serial abdominal exam, given post op and risk of bleed
   -f/u srugery recs
   -transfuse<21 unless active signs bleeding
   .
   # Tachycardia - sinus tachy on ECG. Likely from pain/fever and
   infection.  Would treat above and follow heart rate for now.
   .
   # FEN - NPO for now
   # Access:  central line, foley
   # PPX:  SC heparin, PPI
   # Code - full
   # dispo -ICU for now
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-6-10**] 03:21 AM
   18 Gauge - [**2140-6-10**] 03:22 AM
   Multi Lumen - [**2140-6-10**] 07:03 AM
   Arterial Line - [**2140-6-10**] 07:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-11 09:04:00 Physician Attending Progress Note
Chief Complaint: Bowel Perforation.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo women with h/o ovarian CA, who originally admitted for insertion
   of peritoneal port.  Was d/ced home, and returned with abdmonal pain,
   found to have bowel perf intraop. (on [**12-10**]).  Never on pressors, but
   required lots of fluid, central line.
   24 Hour Events:
   Overnight received 6L of IVF, BP in 90s.  Patient weaned to a
   spontaneou breathing trial today
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ciprofloxacin
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2140-6-10**] 07:56 PM
   Vancomycin - [**2140-6-10**] 08:00 PM
   Metronidazole - [**2140-6-10**] 10:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2140-6-10**] 01:15 PM
   Fentanyl - [**2140-6-10**] 03:30 PM
   Heparin Sodium (Prophylaxis) - [**2140-6-11**] 12:10 AM
   Famotidine (Pepcid) - [**2140-6-11**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-11**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 114 (107 - 152) bpm
   BP: 98/59(74) {74/52(60) - 135/86(104)} mmHg
   RR: 10 (8 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 11 (3 - 18)mmHg
   Bladder pressure: 17 (12 - 17) mmHg
   Total In:
                                                                 11,044 mL
                                                                    361 mL
   PO:
   TF:
   IVF:
                                                                 11,044 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  1,479 mL
                                                                    770 mL
   Urine:
                                                                  1,209 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                     65 mL
   Balance:
                                                                  9,565 mL
                                                                   -409 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 834 (593 - 834) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: 7.37/41/139/23/-1
   Ve: 7.3 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Dressing removed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   309 K/uL
   101 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   108 mEq/L
   136 mEq/L
   23.2 %
   24.9 K/uL
        [image002.jpg]
                             [**2140-6-10**]  02:47 AM
                             [**2140-6-10**]  02:59 AM
                             [**2140-6-10**]  09:32 AM
                             [**2140-6-10**]  10:58 AM
                             [**2140-6-11**]  02:26 AM
                             [**2140-6-11**]  04:00 AM
   WBC
   41.4
   24.9
   Hct
   31.5
   23.2
   Plt
   411
   309
   Cr
   0.5
   0.5
   TCO2
   21
   17
   17
   25
   Glucose
   155
   101
   Other labs: PT / PTT / INR:13.4/28.7/1.2, ALT / AST:[**12-22**], Alk Phos / T
   Bili:48/1.1, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, LDH:135 IU/L, Ca++:7.5
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR with b/l effusions
   Microbiology: NGTD from blood or urine
   Assessment and Plan
   Septic shock - good urine output now after heavy IVF repletion.
   Peritonitis/Perforation:  Continue broad spectrum antibiotics for now,
   pending culture data.
   Respiratory Failure:  Looks great on SBP, will extubate with RSBI of 20
   Acidosis: Now improving
   Anemia:  likely due to IVF repletion, follow Hct.
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Good control.
   Lines:
   20 Gauge - [**2140-6-10**] 03:21 AM
   Multi Lumen - [**2140-6-10**] 07:03 AM
   Arterial Line - [**2140-6-10**] 07:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2140-06-12 08:06:00 Physician Resident Progress Note
Chief Complaint: 57 yof with ovarian cancer, s/p recent surgery
   presented with abdominal pain, elevated WBC now s/p ex-lap with repair
   of enterotomy, LOA and removal of peritoneal port.
   24 Hour Events:
   - extubated successfully
   - NPO per surgery recs
   - 1 Unit PRBC given
   Allergies:
   Penicillins
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ciprofloxacin
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2140-6-11**] 10:08 PM
   Metronidazole - [**2140-6-12**] 06:08 AM
   Vancomycin - [**2140-6-12**] 07:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-6-11**] 10:08 PM
   Famotidine (Pepcid) - [**2140-6-12**] 07:19 AM
   Heparin Sodium (Prophylaxis) - [**2140-6-12**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation, no flatus or BM
   Flowsheet Data as of  [**2140-6-12**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 115 (105 - 119) bpm
   BP: 101/62(76) {88/49(64) - 112/66(84)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 14 (8 - 14)mmHg
   Total In:
                                                                  2,412 mL
                                                                    622 mL
   PO:
   TF:
   IVF:
                                                                  2,037 mL
                                                                    622 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,205 mL
                                                                    620 mL
   Urine:
                                                                  2,110 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
                                                                     95 mL
   Balance:
                                                                    207 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.38/46/111/23/0
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : decreased at bases)
   Abdominal: Soft, Tender: LLQ TTP, Dressings clean dry intact
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   347 K/uL
   9.0 g/dL
   85 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   6 mg/dL
   103 mEq/L
   134 mEq/L
   26.1 %
   14.3 K/uL
        [image002.jpg]
                             [**2140-6-10**]  02:59 AM
                             [**2140-6-10**]  09:32 AM
                             [**2140-6-10**]  10:58 AM
                             [**2140-6-11**]  02:26 AM
                             [**2140-6-11**]  04:00 AM
                             [**2140-6-11**]  08:54 AM
                             [**2140-6-11**]  10:58 AM
                             [**2140-6-11**]  12:51 PM
                             [**2140-6-11**]  08:54 PM
                             [**2140-6-12**]  04:32 AM
   WBC
   24.9
   17.9
   14.3
   Hct
   23.2
   23.6
   25.6
   26.1
   Plt
   [**Telephone/Fax (3) 576**]
   Cr
   0.5
   0.4
   TCO2
   21
   17
   17
   25
   28
   28
   Glucose
   101
   85
   Other labs: PT / PTT / INR:13.4/28.7/1.2, ALT / AST:[**12-22**], Alk Phos / T
   Bili:48/1.1, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, LDH:135 IU/L, Ca++:7.3
   mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR: Of note, the right lateral CP angle is not included on
   the film. The ET tube
   tip is 3.4 cm above the carina. Right IJ catheter tip is in the mid to
   lower
   SVC. Low lung volumes are unchanged. If any, there is a small left
   pleural
   effusion. Right lower lobe atelectasis has increased. NG tube tip is in
   the
   stomach.
   Microbiology: BCx: NGTD
   UCx: Negative
   Abdominal Fluid: Negative
   Assessment and Plan
   Impression and Plan:  57 yof with ovarian cancer, s/p recent surgery
   presented with abdominal pain, elevated WBC now s/p ex-lap with repair
   of enterotomy, LOA and removal of peritoneal port.
   .
   # Septic shock - Initial presentation with fever and hypotension most
   likely from intrabdominal infection from small bowel enterotomy.  She
   is now s/p repair with GYN service.
   - Keep NPO for now, f/u surgery recs
   - on broad spectrum abx with cefepime/flagyl/vancomycin - consider d/c
   vancomycin today as afebrile and cultures no growth and no indication
   for GP coverage.
   - cx NGTD
   - Central line with goal CVP of 14
   .
   # Respiratory failure: Still mildly hypoxic on 2L.  likely [**3-12**] to
   splinting and poor respiratory effort.
   - Pain control, IS and repeat CXR.  Atelectasis noted on [**6-11**].
   - Extubated w/o difficulty.
   .
   # Tachycardia - sinus tachy on ECG. Likely from pain/fever and
   infection.  Would treat above and follow heart rate for now.
   .
   #Pain control: Still using PCA regularly.  Will start low basal
   infusion of fentanyl and uptitrate as needed/tolerated.
   #Nausea: PRN chlorproperazine/zofran.
   #Acidosis: resolved
   #Ileostomy: NPO as per surgery team, pain control.  Discuss antibiotic
   changes and call out as per surgery.
   # Anemia - hct of 23 today here was 34 on admisison.  Likely secondary
   to some blood loss intraop and dilutional (Received 11+ L of IVF).
   - Cont to monitor
   - stool guaiacs
   - follow serial abdominal exam, given post op and risk of bleed
   -f/u srugery recs
   -transfuse<21 unless active signs bleeding
   .
   # FEN - NPO for now
   # Access:  central line, foley, a-line -> d/c a-line today.
   # PPX:  SC heparin, PPI
   # Code - full
   # dispo -ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-6-10**] 07:03 AM
   Arterial Line - [**2140-6-10**] 07:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-12 10:23:00 Physician Attending Progress Note
Chief Complaint: sepsis/bowel perforation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo women p/w bowel perforation, surgical repair
   24 Hour Events:
   Extubated successfully.
   Transfused 1U PRBC
   Pain control is adequate on PCA
   Allergies:
   Penicillins
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ciprofloxacin
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2140-6-12**] 06:08 AM
   Vancomycin - [**2140-6-12**] 07:19 AM
   Cefipime - [**2140-6-12**] 08:53 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2140-6-12**] 07:19 AM
   Heparin Sodium (Prophylaxis) - [**2140-6-12**] 07:20 AM
   Pantoprazole (Protonix) - [**2140-6-12**] 09:54 AM
   Other medications:
   Fentanyl PCA
   KCL/KPhos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-12**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 111 (105 - 119) bpm
   BP: 100/62(78) {88/49(64) - 116/73(91)} mmHg
   RR: 22 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 3 (3 - 14)mmHg
   Total In:
                                                                  2,412 mL
                                                                    906 mL
   PO:
   TF:
   IVF:
                                                                  2,037 mL
                                                                    906 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,205 mL
                                                                  1,090 mL
   Urine:
                                                                  2,110 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
                                                                     95 mL
   Balance:
                                                                    207 mL
                                                                   -184 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.38/46/111/23/0
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, No(t) Bowel sounds present, Tender: Mild LLQ, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   347 K/uL
   85 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   6 mg/dL
   103 mEq/L
   134 mEq/L
   26.1 %
   14.3 K/uL
        [image002.jpg]
                             [**2140-6-10**]  02:59 AM
                             [**2140-6-10**]  09:32 AM
                             [**2140-6-10**]  10:58 AM
                             [**2140-6-11**]  02:26 AM
                             [**2140-6-11**]  04:00 AM
                             [**2140-6-11**]  08:54 AM
                             [**2140-6-11**]  10:58 AM
                             [**2140-6-11**]  12:51 PM
                             [**2140-6-11**]  08:54 PM
                             [**2140-6-12**]  04:32 AM
   WBC
   24.9
   17.9
   14.3
   Hct
   23.2
   23.6
   25.6
   26.1
   Plt
   [**Telephone/Fax (3) 576**]
   Cr
   0.5
   0.4
   TCO2
   21
   17
   17
   25
   28
   28
   Glucose
   101
   85
   Other labs: PT / PTT / INR:13.4/28.7/1.2, ALT / AST:[**12-22**], Alk Phos / T
   Bili:48/1.1, Differential-Neuts:88.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.7 mmol/L, LDH:135 IU/L, Ca++:7.3
   mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Septic Shock: Resolved.  Can D/C vanco as no MRSA has been cultured.
   Respiratory Failure:  Stable off ventilator.  Incentive spirometry at
   bedside.
   Bowel Repair:  Still with no bowel sounds.
   Pain:  Controlled, but having pain with movement.  Will start basal
   rate of 6.25/hour.
   Anemia:  Hct responded appropriately to transfusion
   Tachycardia:  In sinus [**Last Name (LF) **], [**First Name3 (LF) **] observe with better pain control.
   OOB to chair if able.
   NPO for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-6-10**] 07:03 AM
   Arterial Line - [**2140-6-10**] 07:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2140-06-13 06:47:00 Physician Resident Progress Note
Chief Complaint: Impression and Plan:  57 yof with ovarian cancer, s/p
   recent surgery presented with abdominal pain, elevated WBC now s/p
   ex-lap with repair of enterotomy, LOA and removal of peritoneal port.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2140-6-12**] 11:00 AM
   - Increased PCA basal infusion rate
   - GYN Resident did not see patient but not changes from attending rec's
   - d/c'd vancomycin overnight as no indication for GPC coverage
   Allergies:
   Penicillins
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ciprofloxacin
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-12**] 08:00 PM
   Cefipime - [**2140-6-12**] 10:00 PM
   Metronidazole - [**2140-6-13**] 05:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-6-12**] 04:45 PM
   Famotidine (Pepcid) - [**2140-6-12**] 07:30 PM
   Pantoprazole (Protonix) - [**2140-6-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2140-6-12**] 11:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain, Nausea, No(t) Diarrhea, No(t)
   Constipation
   Flowsheet Data as of  [**2140-6-13**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 107 (100 - 115) bpm
   BP: 116/70(80) {105/57(68) - 127/81(92)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 6 (2 - 14)mmHg
   Total In:
                                                                  2,150 mL
                                                                    277 mL
   PO:
   TF:
   IVF:
                                                                  2,150 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                  1,250 mL
   Urine:
                                                                  3,930 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                 -1,800 mL
                                                                   -973 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.45/37/105/26/1
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), mildly tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: at bases)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: , dressing c/d/I, sutures intact, TTP, diminished
   bowel soudns
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   301 K/uL
   9.0 g/dL
   93 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.9 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   25.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2140-6-10**]  10:58 AM
                             [**2140-6-11**]  02:26 AM
                             [**2140-6-11**]  04:00 AM
                             [**2140-6-11**]  08:54 AM
                             [**2140-6-11**]  10:58 AM
                             [**2140-6-11**]  12:51 PM
                             [**2140-6-11**]  08:54 PM
                             [**2140-6-12**]  04:32 AM
                             [**2140-6-12**]  10:42 AM
                             [**2140-6-13**]  04:04 AM
   WBC
   24.9
   17.9
   14.3
   9.7
   Hct
   23.2
   23.6
   25.6
   26.1
   25.2
   Plt
   [**Telephone/Fax (3) 581**]01
   Cr
   0.5
   0.4
   0.4
   TCO2
   17
   25
   28
   28
   27
   Glucose
   101
   85
   93
   Other labs: PT / PTT / INR:13.4/28.7/1.2, ALT / AST:[**12-22**], Alk Phos / T
   Bili:48/1.1, Differential-Neuts:77.0 %, Band:5.0 %, Lymph:13.3 %,
   Mono:8.6 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, LDH:135 IU/L, Ca++:7.6
   mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: One view. Comparison with [**2140-6-11**]. There is hazy increased
   density at the
   lung bases and the costophrenic sulci are blunted. In addition, there
   is
   persistent streaky bibasilar density. The heart and mediastinal
   structures
   are unchanged. The patient has been extubated. A nasogastric tube and
   right internal jugular catheter remain in place.
   IMPRESSION: Evidence for small bilateral pleural effusions. These are
   more
   apparent than previously. Subsegmental atelectasis.
   Microbiology: all culture data: NGTD
   Assessment and Plan
   Impression and Plan:  57 yof with ovarian cancer, s/p recent surgery
   presented with abdominal pain, elevated WBC now s/p ex-lap with repair
   of enterotomy, LOA and removal of peritoneal port.
   .
   # Septic shock - Initial presentation with fever and hypotension most
   likely from intrabdominal infection from small bowel enterotomy.  She
   is now s/p repair with GYN service.  Culture data NGTD.
   - has been covered with broad spectrum abx with
   cefepime/flagyl/vancomycin - would d/c vancomycin today as no clear
   indication for gram positive coverage.  Plan to continue cefepime and
   flagyl for full 14 day course from [**2140-6-9**].
   - cx NGTD
   - Central line with goal CVP of 14, can consider d/c today
   - Keep NPO for now, f/u surgery recs,
   .
   # Respiratory failure: Has been mildly hypoxic requiring 2L NC, likely
   atelectasis secondary to splinting.
   - Pain control, IS and repeat CXR.  Atelectasis noted on [**6-11**].
   - Extubated w/o difficulty.
   .
   # Tachycardia - sinus tachy on ECG. Likely from pain/fever and
   infection.  Would treat above and follow heart rate for now.
   - Much improved.  Continue to monitor volume status.
   .
   #Pain control: Still using PCA regularly.  Will start low basal
   infusion of fentanyl and uptitrate as needed/tolerated.
   #Nausea: PRN chlorproperazine/zofran.
   #Acidosis: resolved
   #Enterotomy: NPO as per surgery team, pain control.  Discuss antibiotic
   changes and call out as per surgery.  d/c
d NG tube and JP drain
   earlier today
   # Anemia - hct of 25 today, trending down s/p 1 unit.  Continue to
   trend.  Transfuse for Hct < 21, or hypotension.
   - Cont to monitor
   - stool guaiacs
   - follow serial abdominal exam, given post op and risk of bleed
   -f/u srugery recs
   -transfuse<21 unless active signs bleeding
   .
   # FEN - NPO for now, advance as per surgery team
   # Access:  central line -> can likely d/c today, foley, a-line
   # PPX:  SC heparin, PPI
   # Code - full
   # dispo -call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-6-10**] 07:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-06-13 09:42:00 Physician Attending Progress Note
Chief Complaint: post op resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2140-6-12**] 11:00 AM
   24 hour events
   1 UPRBC, stable HCT
   Titrating pain control - increased basal rate on PCA, transient error
   overnight with dilaudid into PCA instaed of fentanyl but now swicthed
   back pver to fentanyl
   Allergies:
   Penicillins
   Rash;
   Levaquin (Oral) (Levofloxacin)
   Rash;
   Ciprofloxacin
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2140-6-12**] 08:00 PM
   Cefipime - [**2140-6-12**] 10:00 PM
   Metronidazole - [**2140-6-13**] 05:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-6-12**] 04:45 PM
   Pantoprazole (Protonix) - [**2140-6-12**] 09:30 PM
   Famotidine (Pepcid) - [**2140-6-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2140-6-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-6-13**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 99 (96 - 115) bpm
   BP: 119/71(81) {108/62(77) - 127/81(92)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 6 (2 - 9)mmHg
   Total In:
                                                                  2,150 mL
                                                                    375 mL
   PO:
   TF:
   IVF:
                                                                  2,150 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                  1,750 mL
   Urine:
                                                                  3,930 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                 -1,800 mL
                                                                 -1,375 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.45/37/105/26/1
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   301 K/uL
   93 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.9 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   25.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2140-6-10**]  10:58 AM
                             [**2140-6-11**]  02:26 AM
                             [**2140-6-11**]  04:00 AM
                             [**2140-6-11**]  08:54 AM
                             [**2140-6-11**]  10:58 AM
                             [**2140-6-11**]  12:51 PM
                             [**2140-6-11**]  08:54 PM
                             [**2140-6-12**]  04:32 AM
                             [**2140-6-12**]  10:42 AM
                             [**2140-6-13**]  04:04 AM
   WBC
   24.9
   17.9
   14.3
   9.7
   Hct
   23.2
   23.6
   25.6
   26.1
   25.2
   Plt
   [**Telephone/Fax (3) 581**]01
   Cr
   0.5
   0.4
   0.4
   TCO2
   17
   25
   28
   28
   27
   Glucose
   101
   85
   93
   Other labs: PT / PTT / INR:13.4/28.7/1.2, ALT / AST:[**12-22**], Alk Phos / T
   Bili:48/1.1, Differential-Neuts:77.0 %, Band:5.0 %, Lymph:13.3 %,
   Mono:8.6 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, LDH:135 IU/L, Ca++:7.6
   mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Septic Shock: Resolved.  Can D/C vanco as no MRSA has been cultured.
   Respiratory Failure:  Stable off ventilator.  Incentive spirometry at
   bedside.
   Bowel Repair:  Still with no bowel sounds.
   Pain:  Controlled, but having pain with movement.  Will start basal
   rate of 6.25/hour.
   Anemia:  Hct responded appropriately to transfusion
   Tachycardia:  In sinus [**Last Name (LF) **], [**First Name3 (LF) **] observe with better pain control.
   OOB to chair if able.
   NPO for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-6-10**] 07:03 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:
   Code status: Full code
   Disposition : to floor
   Total time spent: